US06136810
N-Bromosuccinimide (8.94 g, 50.2 mmol) and 200 mg of 2,2'-azobis(isobutyronitrile) were added to a solution of 15.0 g (47.8 mmol) of 4-(3-chlorophenyl)-1,7-diethylpyrido[2,3-d]pyrimidin-2(1H)-one in 150 ml of carbon tetrachloride, followed by heating under reflux for 3 hours. The reaction solution was again mixed with 1.28 g (7.17 mmol) of N-bromosuccinimide and 100 mg of 2,2'-azobis(isobutyronitrile), followed by heating under reflux for 1 hour. After cooling to room temperature, insoluble matter was removed by filtration, and the resulting filtrate was mixed with water and extracted with carbon tetrachloride. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration, the filtrate was concentrated under a reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 11.5 g of 7-(1-bromoethyl)-4-(3-chlorophenyl)-1-ethylpyrido[2,3-d]pyrimidin-2(1H)-one in the form of crystals. The yield was 61%.

reactant | N-Bromosuccinimide | 50.2 mmol, 8.94 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-(3-chlorophenyl)-1,7-diethylpyrido[2,3-d]pyrimidin-2(1H)-one | 47.8 mmol, 15.0 g | ClC=1C=C(C=CC1)C=1C2=C(N(C(N1)=O)CC)N=C(C=C2)CC | C17H16ClN3O
reactant | N-bromosuccinimide | 7.17 mmol, 1.28 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2'-azobis(isobutyronitrile) | 200 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
catalyst | 2,2'-azobis(isobutyronitrile) | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 7-(1-bromoethyl)-4-(3-chlorophenyl)-1-ethylpyrido[2,3-d]pyrimidin-2(1H)-one | 11.5 g, yield was 61% | BrC(C)C=1C=CC2=C(N(C(N=C2C2=CC(=CC=C2)Cl)=O)CC)N1 | C17H15BrClN3O
